US05763450
mf) A solution of 31.18 g of ethyl 2-(2-chloro-4-iodo-benzoyl)-3-ethoxy-acrylate in 500 ml of methylene chloride is treated dropwise with 7.95 g of cyclohexylamine while cooling with ice and stirring. After 6 hrs. at room temperature the reaction mixture is concentrated and, for crystallization, the residue is stirred with 200 ml of hexane. The precipitate is filtered off under suction, washed with 100 ml of hexane and dried. 19.2 g (55%) of ethyl 2-(2-chloro-4-iodo-benzoyl)-3-cyclohexylamino-acrylate are obtained as a colourless solid. M.p. 154°-156° C.

reactant | ethyl 2-(2-chloro-4-iodo-benzoyl)-3-ethoxy-acrylate | 31.18 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=CC(=C1)I | C14H14ClIO4
reactant | cyclohexylamine | 7.95 g | C1(CCCCC1)N | C6H13N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-chloro-4-iodo-benzoyl)-3-cyclohexylamino-acrylate | 19.2 g, 55% | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CCCCC2)C=CC(=C1)I | C18H21ClINO3
